US07820699B2
72.1 Using general method G, 4-(4-amino-3-fluoro-phenyl)-morpholin-3-one (prepared according to WO 2003045912) was activated with 4-nitrophenyl chloroformate to give [2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester. White solid.

reactant | 4-(4-amino-3-fluoro-phenyl)-morpholin-3-one | NC1=C(C=C(C=C1)N1C(COCC1)=O)F | C10H11FN2O2
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
product | [2-fluoro-4-(3-oxo-morpholin-4-yl)-phenyl]-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=C(C=C(C=C1)N1C(COCC1)=O)F)=O | C17H14FN3O6
